US06613942B1
Under N2, tetrakis-triphenylphosphinepalladium(0) was added to a mixture of the above dioxolane (10 g, 31 mmoles), benzeneboronic acid (4.5 g, 37 mmoles), toluene (67 mL), 2 M aqueous sodium carbonate (33 mL) and methanol (20 mL). The resulting mixture was heated at reflux under N2 for 16 hours. After cooling the mixture was diluted with water (150 mL) and washed with heptane (400 mL). The aqueous phase was made acidic with 3N hydrochloric acid and extracted with ethyl acetate (3×300 mL). The combined organic extracts were dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography over silica gel (800 mL) eluting with a mixture of ethyl acetate and heptane (1:2) to afford 5.49 g (77%) of 4-hydroxy-3-methoxy-5-phenylbenzaldehyde. M.p. 107-108° C. 1,2-Dibromoethane (41 mL, 0.48 moles) was added to a mixture of the above 4-hydroxy-3-methoxy-5-phenylbenzaldehyde (5.49 g, 24 mmoles) and potassium carbonate (17 g, 123 mmoles) in DMF (80 ml) and the resulting mixture was stirred vigorously at room temperature for 16 hours. The mixture was poured into water (1 L) and extracted with ethyl acetate (3×300 mL). The combined organic phases were washed with saturated sodium chloride (200 mL), dried over MgSO4 and evaporated in vacuo to afford 8.1 g (100%) of 4-(2-bromoethoxy)-3-methoxy-5-phenylbenzaldehyde as an oil.

reactant | 1,2-Dibromoethane | 0.48 moles, 41 mL | BrCCBr | C2H4Br2
reactant | 4-hydroxy-3-methoxy-5-phenylbenzaldehyde | 24 mmoles, 5.49 g | OC1=C(C=C(C=O)C=C1C1=CC=CC=C1)OC | C14H12O3
reactant | potassium carbonate | 123 mmoles, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 L | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-3-methoxy-5-phenylbenzaldehyde | 8.1 g, 100% | BrCCOC1=C(C=C(C=O)C=C1C1=CC=CC=C1)OC | C16H15BrO3
